US04686302
A solution of 53 g of acrylonitrile and 1.0 g of copper(II) acetate in 100 g of o-xylene was heated to the boil (85° C.), after which a solution of 82 g of p-dimethylaminobenzaldoxime in 110 g of o-xylene was added dropwise by heating further. During the addition, the boiling point of the reaction mixture increased to 135° C. The mixture was stirred under reflux for a further 30 minutes and was then left to cool. The precipitated acrylamide was filtered off under suction, and the mother liquor was extracted by shaking with a little water. The organic phase was evaporated down and the residue was taken up in 400 ml of petroleum ether. After the mixture had been left to stand overnight at 0° C., 66 g (90%) of p-dimethylaminobenzonitrile were obtained in the form of yellow crystals of melting point 75°-76° C.

reactant | acrylonitrile | 53 g | C(C=C)#N | C3H3N
reactant | p-dimethylaminobenzaldoxime | 82 g | CN(C1=CC=C(C=NO)C=C1)C | C9H12N2O
solvent | o-xylene | 100 g | CC=1C=CC=CC1C | C8H10
solvent | o-xylene | 110 g | CC=1C=CC=CC1C | C8H10
catalyst | copper(II) acetate | 1.0 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | p-dimethylaminobenzonitrile | 66 g, 90% | CN(C1=CC=C(C#N)C=C1)C | C9H10N2
